US08975254B2
(R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-methyl-1H-pyrazol-4-yl)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-(1-methyl-1H-pyrazol-4-yl)thiazole-4-carboxylic acid (0.254 g, 1.215 mmol) and (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.4 g, 1.457 mmol). The product was triturated using diethyl ether. Yield 76%. 1H-NMR (400 MHz; DMSO-d6): δ 1.17 (d, 3H), 3.90 (s, 3H), 4.35 (dd, 1H), 4.42 (dd, 1H), 4.50 (m, 1H), 6.96 (d, 1H), 7.85 (d, 1H), 7.86 (d, 1H), 7.93 (d, 1H), 7.93 (dd, 1H), 8.05 (d, 1H), 8.07 (s, 1H), 8.34 (d, 1H), 8.34 (s, 1H).

reactant | 2-(1-methyl-1H-pyrazol-4-yl)thiazole-4-carboxylic acid | 1.215 mmol, 0.254 g | CN1N=CC(=C1)C=1SC=C(N1)C(=O)O | C8H7N3O2S
reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.457 mmol, 0.4 g | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-methyl-1H-pyrazol-4-yl)thiazole-4-carboxamide | Yield 76% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C=1N=C(SC1)C=1C=NN(C1)C | C21H18ClN7OS
